US08604074B2
Step 2. Synthesis of Ethyl 8-Methyl-5-(oxiran-2-ylmethyl)-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate
Ethyl 8-methyl-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate (0.025 g, 0.097 mmol) was dissolved in anhydrous degassed THF and was cooled to −78° C. A solution of n-BuLi (0.082 mL, 1.78 M in hexanes) was added dropwise and the reaction was stirred at −78° C. for 30 min. Epibromohydrin (0.016 mL, 0.194 mmol) was added and the reaction was allowed to warm slowly to ambient temperature. After 3.5 h, epibromohydrin (0.008 mL, 0.097 mmol) was added and the reaction was stirred overnight at ambient temperature. Upon completion, saturated aqueous NH4Cl was added to quench the reaction and the mixture was extracted with EtOAc (3×). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated. The crude residue was purified by chromatography (SiO2, 0-50% EtOAc/Hexane) to afford the desired product (15 mg, 49%).

reactant | Ethyl 8-methyl-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 0.097 mmol, 0.025 g | CC1=CC=2C3=C(NC2C=C1)CCN(C3)C(=O)OCC | C15H18N2O2
reactant | Epibromohydrin | 0.194 mmol, 0.016 mL | C(Br)C1CO1 | C3H5BrO
reactant | epibromohydrin | 0.097 mmol, 0.008 mL | C(Br)C1CO1 | C3H5BrO
reactant | NH4Cl | [NH4+].[Cl-]
product | Ethyl 8-Methyl-5-(oxiran-2-ylmethyl)-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 15 mg, 49% | CC1=CC=2C3=C(N(C2C=C1)CC1OC1)CCN(C3)C(=O)OCC | C18H22N2O3
